US05484917
2-(Cyclohexyl)-2-phenylethanol
To a 500 mL round-bottomed flask equipped with condenser and N2 inlet were added 15 g (68.8 mmol) α-phenylcyclohexylacetic acid, 110 mL dry tetrahydrofuran, and 137 mL (275 mmol) of a 2M solution of borane-methyl sulfide in tetrahydrofuran. The solution was refluxed 60 hr, cooled, and evaporated. The residue was taken up carefully in 200 mL ethanol, treated with 2 g sodium carbonate, and refluxed 3 hr. The reaction was cooled, evaporated, taken up in ethyl acetate/water, separated, and the aqueous phase extracted with fresh ethyl acetate. The organic layers were combined, washed with brine, dried over sodium sulfate, and evaporated to an oil which solidified on standing. The yield was 12.27 g (87%).

reactant | α-phenylcyclohexylacetic acid | 68.8 mmol, 15 g | C1(=CC=CC=C1)C(C(=O)O)C1CCCCC1 | C14H18O2
reactant | borane methyl sulfide | B.CSC
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 110 mL | O1CCCC1 | C4H8O
product | 2-(Cyclohexyl)-2-phenylethanol | C1(CCCCC1)C(CO)C1=CC=CC=C1 | C14H20O
